US05411942
BocAsnGlyOBzl:
58 g BocAsnOH (0.25 moles) and 29 g HOSu are dissolved in 250 ml DMF and cooled to -20°. 52 g DCC dissolved in 250 ml DMF is added. After 4 hours stirring at room temperature 85 g GlyOBzl, pTos and 35 ml TEA is added. After stirring overnight the DCU i filtered off, DMF removed in vacuo on a Rotavap, and the resulting oil dissolved in EtAc. After extraction with sat. NaCl, sat. NaHCO3, and 10% citric acid, the solvent is dried with Na2SO4 and evaporated. The resulting crystalline ma is dried in a desiccator. Yield: 64 g (67%).

reactant | BocAsnOH | 0.25 moles, 58 g | N([C@@H](CC(N)=O)C(=O)O)C(=O)OC(C)(C)C | C9H16N2O5
reactant | HOSu | 29 g | ON1C(=O)CCC1=O | C4H5NO3
reactant | DCC | 52 g | C1CCC(CC1)N=C=NC2CCCCC2 | C13H22N2
reactant | GlyOBzl | 85 g | NCC(=O)OCC1=CC=CC=C1 | C9H11NO2
solvent | DMF | 250 ml | CN(C)C=O | C3H7NO
solvent | DMF | 250 ml | CN(C)C=O | C3H7NO
product | BocAsnGlyOBzl | N([C@@H](CC(N)=O)C(=O)NCC(=O)OCC1=CC=CC=C1)C(=O)OC(C)(C)C | C18H25N3O6
